US07550544B2
1-Bromo-2-(bromomethyl)-4-fluorobenzene
A mixture of 18.9 g (100 mmol) of 2-bromo-5-fluorotoluene, 17.8 g (100 mmol) of N-bromosuccinimide, 400 mg of benzoyl peroxide, and 200 ml of CCl4 were refluxed for 2 h. The resulting mixture was filtered through a glass frit (G2), and the precipitate was additionally washed with 3×50 ml of CCl4. The combined filtrate was evaporated to dryness. Fractional distillation of the residue (bp 92-96° C./ 4 mm Hg) gave the title product as colorless oil. Yield 19.0 g (71%).

reactant | 2-bromo-5-fluorotoluene | 100 mmol, 18.9 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | N-bromosuccinimide | 100 mmol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 400 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-2-(bromomethyl)-4-fluorobenzene | BrC1=C(C=C(C=C1)F)CBr | C7H5Br2F
